US04086415
1-(β-D-mannopyranosyl)-3-methyl-3-nitrosourea
1-(β-D-mannopyranosyl)-3-methyl-urea (200 mg) was dissolved in a mixture of 1.5 ml of glacial acetic acid and 3.5 ml of water, and the resulting solution was admixed with 99 mg of sodium nitrite. The mixture so obtained was agitated for 3 hours at ambient temperature to effect the nitrosation. The reaction mixture was treated with Amberlite IR-120 (H+ form) to remove sodium cation therefrom. The reaction mixture so treated was then concentrated by distillation under reduced pressure at a temperature of less than 30° C to remove the solvent, so that a crystalline product was deposited. This crystalline product was collected by filtration and washed with n-propanol, affording 180 mg of the titled compound. Yield 78%. mp. 103° C (with decomposition). [α]D26 -12.6° (c 0.99, H2O).

reactant | 1-(β-D-mannopyranosyl)-3-methyl-urea | 200 mg | [C@@H]1([C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)NC(=O)NC | C8H16N2O6
reactant | sodium nitrite | 99 mg | N(=O)[O-].[Na+]
solvent | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
solvent | water | 3.5 ml | O | H2O
product | 1-(β-D-mannopyranosyl)-3-methyl-3-nitrosourea | 180 mg, Yield 78% | [C@@H]1([C@@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)NC(=O)N(N=O)C | C8H15N3O7
